US05665718
A suspension of 1.30 g (3.4 mmol) of 7-chloro-3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one in 13 ml of N,N-dimethylformamide was treated with 1.24 g (0.017 mol) of diethylamine. After stirring at room temperature for 16 hrs. the solution obtained was completely freed from the solvents. The residue was chromatographed over silica gel with methylene chloride/methanol 39:1 as the eluent. The product was recrystallized from ether/n-hexane. There was obtained 1.3 g (91%) of 7-chloro-3-(5-diethylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as white crystals; m.p. 140°-144° (dec.).

reactant | 7-chloro-3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 3.4 mmol, 1.30 g | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1C1=NOC(=N1)CCl)C)=O)F | C15H10Cl2FN5O2
reactant | diethylamine | 0.017 mol, 1.24 g | C(C)NCC | C4H11N
solvent | N,N-dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
product | 7-chloro-3-(5-diethylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1.3 g, 91% | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1C1=NOC(=N1)CN(CC)CC)C)=O)F | C19H20ClFN6O2
